US07208513B2
B. 1-[(1E)-2-(5-(1H-1,2,4-Triazol-3-yl)((1H-indazol-3-yl))vinyl]-4-methoxybenzene
Hydrolysis was performed by stirring 1-((1E)-2-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}vinyl-4-methoxybenzene in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.0 N aqueous HCl at room temperature for 6.5 hours. A mixture of 2 isomers was isolated after purification by preparative HPLC (3% of the minor isomer) (0.014 g, 17.4% yield) 1H NMR (DMSO-d6) δ 8.8 (s, 1H), 8.55 (s, 1H), 8.15 (d, 1H), 7.7 (t, 3H), 7.5 (d. 2H), 7.0 (d, 2H), 3.8 (s, 3H); ES-MS (m/z) 318 [M+1]+.

reactant | (1E)-2-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}vinyl-4-methoxybenzene | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C1=CC=C(C=C1)OC | C42H37N5O2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | (1E)-2-(5-(1H-1,2,4-Triazol-3-yl)((1H-indazol-3-yl))vinyl]-4-methoxybenzene | 17.4% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)/C=C/C1=CC=CC(=C1)OC | C18H15N5O
